US08008298B2
7-Iodo-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (500 mg, 1.22 mmol), PdCl2(PPh3)2 (43 mg, 0.061 mmol), and cuprous iodide (6 mg, 0.031 mmol) were added to a 20 ml microwave vial. The vial was capped and purged with nitrogen. Ethynyl benzene (0.4 ml, 3.6 mmol), triethylamine (5 ml) and N,N-dimethylformamide (5 ml) were added through the septum and the vial was purged again with nitrogen. The mixture was heated in a microwave reactor at 70° C. for 30 minutes. The crude mixture was diluted with ethyl acetate and washed with dilute hydrochloric acid and water/brine. The organic layer was filtered through celite and concentrated. The residue was triturated with a mixture of ethyl acetate and hexanes and filtered, washed with hexanes, and dried to give 427 mg of 7-phenylethynyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine. MS: (M+H)+=386.

reactant | 7-Iodo-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 1.22 mmol, 500 mg | IC1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C15H14IN3O3
reactant | Ethynyl benzene | 3.6 mmol, 0.4 ml | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.061 mmol, 43 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-phenylethynyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 427 mg | C1(=CC=CC=C1)C#CC1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C23H19N3O3
